* Z:\mnt\design.r\spice\examples\317A.asc
V1 IN 0 SINE(10 100m 100K)
R1 OUT N001 121
R2 N001 N002 121
Rload OUT 0 10
XU2 N002 0 NC_01 LT1009
XU1 N001 OUT IN LT317A
.tran 50u
.lib LTC.lib
.lib LTC3.lib
.backanno
.end
